US07897619B2
5-Ethynyl-3-methyl-1H-indazole:
3-Methyl-5-(2-(trimethylsilyl)ethynyl)-1H-indazole (820 mg, 3.55 mmol) was dissolved in 20 mL THF and K2CO3 (4.9 g, 35.5 mmol) and 200 mL MeOH were added. The mixture was stirred for 1 hour at room temperature, filtered and evaporated. The mixture was purified via glass column chromatography (35% EtOAc in hexane) and the title compound (500 mg, 3.2 mmol) was obtained as a light yellow solid. LCMS (API-ES) m/z (%): 157.0 (100%, M++H).

reactant | 3-Methyl-5-(2-(trimethylsilyl)ethynyl)-1H-indazole | 3.55 mmol, 820 mg | CC1=NNC2=CC=C(C=C12)C#C[Si](C)(C)C | C13H16N2Si
reactant | K2CO3 | 35.5 mmol, 4.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 200 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Ethynyl-3-methyl-1H-indazole | 3.2 mmol, 500 mg | C(#C)C=1C=C2C(=NNC2=CC1)C | C10H8N2
